*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/1.00e-01[uF]/16[V]
* Murata P/N :GCM155R11C104KA40
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R11C104KA40 Port1 Port2
C01 Port1 N01 1.02e-07
R01 Port1 N01 5.00e+09
L02 N01 N02 2.01e-10
R03 N02 N03 1.42e-02
C04 N03 N04 1.09e-05
R04 N03 N04 3.64e+02
C05 N04 N05 1.38e-05
R05 N04 N05 3.90e+01
C06 N05 N06 1.13e-05
R06 N05 N06 4.48e+00
C07 N06 N07 1.43e-05
R07 N06 N07 4.18e-01
C08 N07 N08 1.37e-05
R08 N07 N08 1.34e-01
C09 N08 N09 7.31e-06
R09 N08 N09 3.93e-02
C10 N09 N10 8.17e-06
R10 N09 N10 6.63e-03
L11 N10 N11 2.13e-11
R11 N10 N11 1.49e-01
L12 N11 N12 9.48e-11
R12 N11 N12 6.50e-02
C13 N12 N13 2.58e-06
L13 N12 N13 4.03e-12
R13 N12 N13 5.29e-03
C14 N13 N14 1.54e-07
L14 N13 N14 3.36e-11
R14 N13 N14 2.16e-02
C15 N14 Port2 1.01e-11
L15 N14 Port2 3.08e-11
R15 N14 Port2 3.95e+00
.ENDS GCM155R11C104KA40
